US05629339
5,7-Diallyloxy-2-(3-allyloxy-4-methoxyphenyl)-4H-1-benzopyran-4-one
30 g of diosmetin in 300 ml of dimethylformamide are added to a suspension of 11.7 g of sodium hydride in 150 ml of dimethylformamide. The mixture is maintained at 40° C. with stirring until the evolution of gas has ceased. 48 g of allyl bromide are then added and stirring at 40° C. is continued for 22 hours.

reactant | diosmetin | 30 g | COC=1C=CC(=CC1O)C2=CC(=O)C=3C(=CC(=CC3O2)O)O | C16H12O6
reactant | sodium hydride | 11.7 g | [H-].[Na+]
reactant | allyl bromide | 48 g | C(C=C)Br | C3H5Br
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 5,7-Diallyloxy-2-(3-allyloxy-4-methoxyphenyl)-4H-1-benzopyran-4-one | C(C=C)OC1=CC(=CC2=C1C(C=C(O2)C2=CC(=C(C=C2)OC)OCC=C)=O)OCC=C | C25H24O6
